US07700641B2
B. Synthesis of 7-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 2C, and making non-critical variations to replace 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one with 7-fluoro-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained (100%): 1H NMR (300 MHz, DMSO-d6) δ 10.84 (s, 1H), 9.22 (s, 1H), 7.01 (t, 1H), 6.87-6.78 (m, 1H), 6.71 (d, 1H), 6.62 (s, 1H), 6.35 (s, 1H), 5.90-5.85 (m, 2H), 4.67 (s, 1H); MS (ES+) m/z 288.5 (M+1).

reactant | 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(C1=CC2=C(OCO2)C=C1O)O)=O | C20H19NO5
reactant | 7-fluoro-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | FC=1C=CC=C2C(C(NC12)=O)(C1=CC2=C(OCO2)C=C1O)O | C15H10FNO5
product | 7-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | FC=1C=CC=C2C(C(NC12)=O)C1=CC2=C(OCO2)C=C1O | C15H10FNO4
